US07183306B2
A mixture of 10% Pd-C 50% wet (20 mg) and N-(2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)methanesulfonamide (118 mg) in THF (1 ml) and MeOH (1 ml) was hydrogenated under H2 1atm at ambient temperature for 1 day. The catalyst was removed by filtration. The filtrate and combined washings were concentrated in vacuo. The residue was purified by preparative thin layer silica gel chromatography developed by AcOEt/n-hexane=70%. The separated silica gel was extracted with 10% MeOH/CHCl3 and the solvent was evaporated in vacuo. The residue was recrystallized from AcOEt-IPE to give N-(2-{4-[3-isopropyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)methanesulfonamide (68.6 mg) as white powder.

reactant | N-(2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)methanesulfonamide | 118 mg | C(=C)(C)C1=NN(C(=C1)C1=CC=C(OCCNS(=O)(=O)C)C=C1)C=1C=NC(=CC1)OC | C21H24N4O4S
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1 ml | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | N-(2-{4-[3-isopropyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)methanesulfonamide | 68.6 mg | C(C)(C)C1=NN(C(=C1)C1=CC=C(OCCNS(=O)(=O)C)C=C1)C=1C=NC(=CC1)OC | C21H26N4O4S
